US07268232B2
4-[2-(Hydroxymethyl)piperidin-1-yl]naphthalene-1-carbonitrile, tri (173FBA70e)
A solution of 1-cyano-4-fluoronaphthalene (200 mg, 1.168 mmol) in pyridine (0.5 mL) was transferred to a Pyrex tube and 2-piperidinemethanol (538 mg, 4.67 mmol) was added. The tube was capped and exposed to microwave irradiation (200° C., 60 min). The reaction mixture was diluted with ethyl acetate, washed with 0.4 N HCl and saturated aqueous NaHCO3. The organic phase was dried and evaporated to give a crude product which was purified by preparative TLC (65:35 n-heptane/ethyl acetate), followed by further purification by preparative HPLC to give 173FBA70e (15 mg, 5%).

reactant | 1-cyano-4-fluoronaphthalene | 1.168 mmol, 200 mg | C(#N)C1=CC=C(C2=CC=CC=C12)F | C11H6FN
reactant | 2-piperidinemethanol | 4.67 mmol, 538 mg | N1C(CCCC1)CO | C6H13NO
solvent | pyridine | 0.5 mL | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[2-(Hydroxymethyl)piperidin-1-yl]naphthalene-1-carbonitrile | OCC1N(CCCC1)C1=CC=C(C2=CC=CC=C12)C#N | C17H18N2O
